US08247430B2
3-(2-Chloro-5-nitro-phenoxymethyl)-azetidine-1-carboxylic acid tert-butyl ester
To the mixture of 2-chloro-5-nitro-phenol (1.31 g, 7.54 mmol) and K2CO3 (1.57 g, 11.31 mmol) in 20 mL of DMF was added 3-methanesulfonyloxymethyl-azetidine-1-carboxylic acid tert-butyl ester (2.0 g, 7.54 mol). The reaction mixture was stirred at 50° C. for 1 h. After cooling to RT, the reaction mixture was diluted in 100 mL of EtOAc and quenched with 50 mL of water. The organic layer was separated and the aqueous layer was extracted with EtOAc (2×50 mL). The combined organic phases were washed with brine, dried over MgSO4 and concentrated in vacuum. The title compound was obtained via column chromatography (silica gel, 1;1 hexane/EtOAc) as yellow oil with 93% yield.

reactant | 2-chloro-5-nitro-phenol | 7.54 mmol, 1.31 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | K2CO3 | 11.31 mmol, 1.57 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-methanesulfonyloxymethyl-azetidine-1-carboxylic acid tert-butyl ester | 7.54 mol, 2.0 g | C(C)(C)(C)OC(=O)N1CC(C1)COS(=O)(=O)C | C10H19NO5S
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3-(2-Chloro-5-nitro-phenoxymethyl)-azetidine-1-carboxylic acid tert-butyl ester | 93% yield | C(C)(C)(C)OC(=O)N1CC(C1)COC1=C(C=CC(=C1)[N+](=O)[O-])Cl | C15H19ClN2O5
